US07196104B2
Preparation BX: 4-Piperidin-1-ylmethyl-pyridin-2-ylamine
To a stirred solution of (2-amino-pyridin-4-yl)-piperidin-1-yl-methanone (100 mg, 0.487 mmol) in dry THF (10 mL) at 0° C. was added LAH (1.5 mL, 1.46 mmol) dropwise. The mixture was heated to reflux for 20 h. The resulting mixture was cooled to 0° C. and quenched with H2O (1.5 mL) dropwise followed by 10% NaOH (1.5 mL). Solvent was removed and the residue was partitioned between H2O and CHCl3. The organic layer was washed with H2O, brine, dried over MgSO4. Concentration in vacuo gave a light brown liquid. MS m/z: 192.2 (M+H). Calc'd. for C11H17N3-191.14.

reactant | (2-amino-pyridin-4-yl)-piperidin-1-yl-methanone | 0.487 mmol, 100 mg | NC1=NC=CC(=C1)C(=O)N1CCCCC1 | C11H15N3O
reactant | LAH | 1.46 mmol, 1.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Piperidin-1-ylmethyl-pyridin-2-ylamine | N1(CCCCC1)CC1=CC(=NC=C1)N | C11H17N3
